US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-methyl-6-phenylpyridine-2-carboxamide 1-oxide
To a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (98.8 mg, 0.303 mmol) and 5-methyl-6-phenylpyridine-2-carboxylic acid 1-oxide (83.1 mg, 0.363 mmol) in N,N-dimethylformamide (1.0 mL) were added HATU (150 mg, 0.394 mmol) and N,N-diisopropylethylamine (104 μL, 0.606 mmol), and the mixture was stirred at room temperature for 3.5 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate) to give a white solid. The obtained solid was washed with ethyl acetate to give the title compound (100 mg, 61%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.303 mmol, 98.8 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 5-methyl-6-phenylpyridine-2-carboxylic acid 1-oxide | 0.363 mmol, 83.1 mg | CC1=CC=C([N+](=C1C1=CC=CC=C1)[O-])C(=O)O | C13H11NO3
reactant | HATU | 0.394 mmol, 150 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.606 mmol, 104 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-5-methyl-6-phenylpyridine-2-carboxamide 1-oxide | 100 mg, 61% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2[N+](=C(C(=CC2)C)C2=CC=CC=C2)[O-])F)C1 | C30H24FN5O4
